US07968725B2
f) 2-[2-[Isobutyl-(4-trifluoromethyl-phenyl)-amino]-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pent-4-enoic acid methyl ester
To a solution of [2-[isobutyl-(4-trifluoromethyl-phenyl)-amino]-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-acetic acid methyl ester (75 mg, 0.15 mmol) in THF (5 mL) at −78° C. under argon was added potassium bis(trimethylsilyl)amide (0.5 M solution in toluene, 300 μL, 0.15 mmol). After stirring for 30 minutes, 3-bromo-2-methylpropene (20 mg, 0.15 mmol) was added and stirred for an additional 30 minutes The reaction mixture was allowed to warm up slowly and stirred for another 30 minutes at 0° C. The mixture was then concentrated and purified by column chromatography on silica gel (0-30% methylene chloride in heptane) to give the product as a white solid (40 mg, 47%). 1H NMR (300 MHz, CDCl3) δ 8.12 (d, J=8.29 Hz, 2H), 7.71 (d, J=8.29 Hz, 2H), 7.57-7.68 (m, 2H), 7.38 (d, J=8.29 Hz, 2H), 7.19 (s, 1H), 6.55 (s, 1H), 4.61-4.79 (m, 2H), 3.96 (d, J=7.54 Hz, 2H), 3.67 (s, 3H), 2.68-2.85 (m, 1H), 2.31-2.47 (m, 1H), 2.07-2.26 (m, 1H), 1.70 (s, 3H), 0.89-1.05 (m, 6H). MS m/e 565.3 (M+H).

reactant | [2-[isobutyl-(4-trifluoromethyl-phenyl)-amino]-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-acetic acid methyl ester | 0.15 mmol, 75 mg | COC(CC1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)N(C1=CC=C(C=C1)C(F)(F)F)CC(C)C)=O | C26H24F6N2O2
reactant | potassium bis(trimethylsilyl)amide | 0.15 mmol, 0.5 M, 300 μL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 3-bromo-2-methylpropene | 0.15 mmol, 20 mg | BrCC(=C)C | C4H7Br
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-[2-[Isobutyl-(4-trifluoromethyl-phenyl)-amino]-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pent-4-enoic acid methyl ester | 40 mg, 47% | COC(C(CC(=C)C)C1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)N(C1=CC=C(C=C1)C(F)(F)F)CC(C)C)=O | C30H30F6N2O2
